US04826862
A solution of 6.3 parts of methyl [5-[(4-fluorophenyl)hydroxymethyl]-1H-benzimidazol-2-yl]carbamate in 60 parts of acetic acid, saturated with hydrogen bromide was stirred for 3 hours at room temperature. The reaction mixture was evaporated, yielding 9.18 parts (99.9%) of methyl [5-[bromo(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate monohydrobromide as a residue (int. 2).

reactant | methyl [5-[(4-fluorophenyl)hydroxymethyl]-1H-benzimidazol-2-yl]carbamate | FC1=CC=C(C=C1)C(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)O | C16H14FN3O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl [5-[bromo(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate monohydrobromide | 99.9% | Br.BrC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=C(C=C1)F | InChI=1S/C16H13BrFN3O2.BrH/c1-23-16(22)21-15-19-12-7-4-10(8-13(12)20-15)14(17)9-2-5-11(18)6-3-9;/h2-8,14H,1H3,(H2,19,20,21,22);1H
